* BSIMCMG rfsim: Common-source with RD=1k
* 10-fin FinFET, L=40nm, TFIN=15nm, HFIN=30nm
VDD vdd 0 1.0
RD  vdd d  1k
VG  g   0 0.8

M1 d g 0 0 nmos TFIN=15n L=40n NFIN=10 NRS=1 NRD=1

.model nmos bsimcmg generated=1
+ TOXE=1.0n TOXP=1.2n HFIN=30n
+ PHIG=4.61 NBODY=1e24 NSD=2e26
+ U0=0.04 VSAT=1.5e5 RDSW=100
+ ETA0=0.07 DSUB=0.53 DROUT=0.53
+ BG0SUB=1.12 BULKMOD=1
+ EOT=1.0n EPSROX=3.9 EPSRSUB=11.9
+ FECH=2.0 GEOMOD=1.0
+ AGIDL=5e-5 BGIDL=5e5 EGIDL=0.2
+ AGISL=5e-5 BGISL=5e5 EGISL=0.2
+ CDSC=5e-3 CDSCD=5e-3
+ DVT0=0 DVT1=0.3
+ PDIBL1=0.3 PDIBL2=0.0086
+ PCLM=0.0
+ UA=0.1 UA1=1.032e-3
+ UD=1.0
+ EU=0.9
+ ETAMOB=2.5
+ NFATOR=1.5
+ K1=0.001
+ K11=0.0
+ K2=0.0
+ K21=0.0
+ PHIBE=0.7
+ VSAT=1.5e5
+ DELTAVSAT=1.0
+ MEXP=3
+ PTWG=0.0
+ APTWG=0.0
+ AT=0.007
+ RDSWMIN=0.0
+ RDW=50 RDWMIN=0
+ RSW=50 RSWMIN=0
+ PDIBLC1=0.3 PDIBLC2=0.0086
+ AIGC=0.0136 BIGC=1.71e-3 CIGC=0.075
+ AIGS=0.0136 BIGS=1.71e-3 CIGS=0.075
+ AIGD=0.0136 BIGD=1.71e-3 CIGD=0.075
+ AIGBINV=11.1e-3 BIGBINV=-1e-3 CIGBINV=6e-3 EIGBINV=1.1 NIGBINV=3
+ CGSO=0 CGDO=0
+ CJS=5e-4 CJD=5e-4
+ CJSWS=5e-10 CJSWD=5e-10
+ PBS=1.0 PBD=1.0
+ MJS=0.5 MJD=0.5
+ MJSWS=0.33 MJSWD=0.33
+ RGATEMOD=0 RGFIN=100
+ NQSMOD=0 RDSMOD=0 SHMOD=0 IIMOD=0

.op
.print v(d) v(g) i(VDD)
.end
