* BSIMSOI single operating point test
VDD vdd 0 1.0
RD  vdd d  1k
VG  g   0 0.7
VB  b   0 0.0

M1 d g 0 b nmos w=1u l=130n

.model nmos bsimsoi generated=1
+ type=1
+ tox=3e-9 toxp=3e-9 toxm=3e-9
+ vtho=0.5 vth0=0.5
+ u0=0.045 vsat=1.5e5
+ rdsw=160
+ cgso=0.1e-9 cgdo=0.1e-9
+ voff=-0.08
+ n0=1e16 nsub=1e17

.op
.print v(d) i(VDD)
.end
