* BSIMSOI OSDI DLL test
VDD vdd 0 1.0
RD  vdd d  1k
VG  g   0 0.0
VB  b   0 0.0
M1 d g 0 b nmos w=1u l=130n
.model nmos bsimsoi file="models/bsimsoi.dll"
+ type=1 tox=3e-9 toxp=3e-9 toxm=3e-9
+ vtho=0.5 vth0=0.5 u0=0.045 vsat=1.5e5
+ rdsw=160 cgso=0.1e-9 cgdo=0.1e-9 voff=-0.08
+ n0=1e16 nsub=1e17
.dc VG 0.0 1.2 0.1
.print v(d) i(VDD)
.end
